US08039472B2
To a solution of -(2-Hydroxy-ethyl)-1H-indole-4-carboxylic acid methyl ester in DCM (3 ml) is added DIPEA (0.129 ml, 0.739 mmol) and 1-Chloromethoxy-2-methoxy-ethane (0.084 ml, 0.739 mmol). The solution is stirred at room temperature for 72 hours. The reaction is diluted with DCM (50 ml) and washed with 0.5 M HCl (20 ml), 1 M NaOH (20 ml) and 0.5 M HCl (20 ml). The organic layer is dried over MgSO4 and the solvent is removed in vacuo. Purification by chromatography (SiO2, DCM/MeOH) affords 1-[2-(2-Methoxy-ethoxymethoxy)-ethyl]-1H-indole-4-carboxylic acid methyl ester; [M+H]+ 308

reactant | (2-Hydroxy-ethyl)-1H-indole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=CN(C2C=CC1)CCO | C12H13NO3
reactant | DIPEA | 0.739 mmol, 0.129 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-Chloromethoxy-2-methoxy-ethane | 0.739 mmol, 0.084 ml | ClCOCCOC | C4H9ClO2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(2-Methoxy-ethoxymethoxy)-ethyl]-1H-indole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=CN(C2C=CC1)CCOCOCCOC | C16H21NO5
